US04812258
A mixture of 37.8 g of 2-(3-nitro-4-bromophenyl)-5-n-heptylpyrimidine (obtainable by nitration of 4-bromobenzonitrile, converting the 3-nitro-4-bromobenzonitrile into the corresponding amidine hydrochloride and heating the latter together with n-heptylmalondialdehydtetramethylacetale), 18 g of Cu-(I)-cyanide and 100 ml of 1,3-dimethyltetrahydro-2(1H)pyrimidinon (DMPU) is heated at 150° for 3 hours. After cooling the mixture is filtered, the filtrate and the residue are extracted with methylene chloride and the organic phase is evaporated. 2-(3-Nitro-4-cyanophenyl)-5-n-heptylpyrimidine (F. 73°) is obtained by purification by chromatography. The obtained material is heated together with 33.4 g of CsF in 120 ml of DMPU at 110° for 4 hours. After cooling the mixture is poured onto 600 ml of ice water. After extraction with methylene chloride and purification by chromatography 2-(3-fluoro-4-cyanophenyl)-5-n-heptylpyrimidine (m.p. 43°, clp. 0°, Δε=-37) is obtained

reactant | 2-(3-nitro-4-bromophenyl)-5-n-heptylpyrimidine | 37.8 g | [N+](=O)([O-])C=1C=C(C=CC1Br)C1=NC=C(C=N1)CCCCCCC | C17H20BrN3O2
reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 3-nitro-4-bromobenzonitrile | [N+](=O)([O-])C=1C=C(C#N)C=CC1Br | C7H3BrN2O2
solvent | 1,3-dimethyltetrahydro-2(1H)pyrimidinon | 100 ml | CN1C(N(CCC1)C)=O | C6H12N2O
product | 2-(3-Nitro-4-cyanophenyl)-5-n-heptylpyrimidine | [N+](=O)([O-])C=1C=C(C=CC1C#N)C1=NC=C(C=N1)CCCCCCC | C18H20N4O2
